US05374772
Using this procedure, the reaction of 3,5-dihydroxybenzoic acid methyl ester with 2-(3-bromopropoxy)-1,1-biphenyl gave 3,5-bis[3-(1,1'-biphenyl-2-yloxy)propoxy]benzoic acid methyl ester, mp 77°-79°. Anal. Calcd for C38H36O6 : C, 77.53; H, 6.16. Found: C, 77.31; H, 6.15.

reactant | 3,5-dihydroxybenzoic acid methyl ester | COC(C1=CC(=CC(=C1)O)O)=O | C8H8O4
reactant | 2-(3-bromopropoxy)-1,1-biphenyl | BrCCCOC1=C(C=CC=C1)C1=CC=CC=C1 | C15H15BrO
product | 3,5-bis[3-(1,1'-biphenyl-2-yloxy)propoxy]benzoic acid methyl ester | COC(C1=CC(=CC(=C1)OCCCOC1=C(C=CC=C1)C1=CC=CC=C1)OCCCOC1=C(C=CC=C1)C1=CC=CC=C1)=O | C38H36O6
